US09126931B2
6,6-Dimethyl-11-oxo-8-[2-(3-oxo-piperazin-1-yl)-ethoxy]-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile
To DMF solution (5 mL) of 8-(2-bromo-ethoxy)-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile (Compound A7-24, 30 mg, 0.07 mmol), piperazin-2-one (44.9 mg, 0.35 mmol) and N,N-diisopropylethylamine (0.061 mL, 0.35 mmol) were added at room temperature and stirred at 80° C. for 18 hr. After cooling to room temperature, the mixture was extracted with ethyl acetate washed with saturated brine. The organic layer was dried over magnesium sulfate. The drying agent was removed by filtration and the residues obtained after concentration under reduced pressure were purified by preparative TLC (dichloromethane/methanol) to obtain the title compound (white solid, 24 mg, 80%).

reactant | 8-(2-bromo-ethoxy)-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | 0.07 mmol, 30 mg | BrCCOC=1C=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)C#N)(C)C)C1 | C21H17BrN2O2
reactant | piperazin-2-one | 0.35 mmol, 44.9 mg | N1C(CNCC1)=O | C4H8N2O
reactant | N,N-diisopropylethylamine | 0.35 mmol, 0.061 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 6,6-Dimethyl-11-oxo-8-[2-(3-oxo-piperazin-1-yl)-ethoxy]-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | 24 mg, 80% | CC1(C2=C(C(C=3C4=CC=C(C=C4NC13)C#N)=O)C=CC(=C2)OCCN2CC(NCC2)=O)C | C25H24N4O3
